US04686309
β-Dimethylamino-3-methoxypropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone can be prepared by a method similar to that described in Example 22 for the preparation of β-dimethylaminopropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone, but starting from 2,4,6-triisopropylbenzenesulphonylhydrazine (25.3 g) and β-dimethylamino-3-methoxypropiophenone hydrochloride (20.7 g). In this way β-dimethylamino-3-methoxypropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone hydrochloride (26.1 g) is obtained in the form of a white solid melting at 188° C.

reactant | β-Dimethylamino-3-methoxypropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(CC(OC)N(C)C)C1=CC=CC=C1 | C27H41N3O3S
reactant | β-dimethylaminopropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(CCN(C)C)C1=CC=CC=C1 | C26H39N3O2S
reactant | 2,4,6-triisopropylbenzenesulphonylhydrazine | 25.3 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN | C15H26N2O2S
reactant | β-dimethylamino-3-methoxypropiophenone hydrochloride | 20.7 g | Cl.CN(C(CC(=O)C1=CC=CC=C1)OC)C
product | β-dimethylamino-3-methoxypropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone hydrochloride | 26.1 g | Cl.C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(CC(OC)N(C)C)C1=CC=CC=C1 | InChI=1S/C27H41N3O3S.ClH/c1-18(2)22-15-23(19(3)4)27(24(16-22)20(5)6)34(31,32)29-28-25(17-26(33-9)30(7)8)21-13-11-10-12-14-21;/h10-16,18-20,26,29H,17H2,1-9H3;1H
